US06515002B2
4-{2-[(2,5-Dimethoxyphenyl)amino](1,3-thiazol-4-yl)}-5-ethylthiothiophene-2-carboxamidine: Methyl 4-{2-[(2,5-dimethoxyphenyl)amino]-(1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxylate hydrobromide (45.5 mg, 0.09 mmol) was treated as described in Example 154, step (b), followed by preparative thin layer chromatography (500 μm silica gel plate, J. T. Baker, Phillipsburg, N.J., 10%-methanol-CH2Cl2-sat'd. NH3 eluent) to give 9.9 mg (27% yield of 4-{2-[(2,5-dimethoxyphenyl)amino](1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxamidine. 1H NMR (DMSO-d6, 300 MHz) δ 2.60 (s, 3H), 3.73 (s, 3H), 3.81 (s, 3H), 6.48 (dd, 1H, J=3.1, 8.8 Hz), 6.92 (d, 1H, J=7.9 Hz), 7.05 (s, 1H), 7.5 (bs, 2H), 8.04 (s, 1H), 8.34 (d, 1H, J=1.0 Hz), 9.6 (bs, 1H); Mass Spectrum (ESI) m/z calcd. for C17H18N4O2S3, 406.55 (M+H), found 407.1.

reactant | 4-{2-[(2,5-Dimethoxyphenyl)amino](1,3-thiazol-4-yl)}-5-ethylthiothiophene-2-carboxamidine | COC1=C(C=C(C=C1)OC)NC=1SC=C(N1)C=1C=C(SC1SCC)C(=N)N | C18H20N4O2S3
reactant | Methyl 4-{2-[(2,5-dimethoxyphenyl)amino]-(1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxylate hydrobromide | 0.09 mmol, 45.5 mg | Br.COC1=C(C=C(C=C1)OC)NC=1SC=C(N1)C=1C=C(SC1C)C(=S)OC
reactant | NH3 | N | H3N
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | 4-{2-[(2,5-dimethoxyphenyl)amino](1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxamidine | 27% yield | COC1=C(C=C(C=C1)OC)NC=1SC=C(N1)C=1C=C(SC1SC)C(=N)N | C17H18N4O2S3
